US07141637B2
d) 5-Isopropyl-2-methyl-3-phenyl-6H-cyclopenta[b]thiophene.
A solution of 2-methyl-5-(isopropyl)-3-phenyl-4,5-dihydrocyclopenta[2,1-b]thiophen-6-one (18.5 g, 0.068 mol) in 80 mL of ether was treated with 40 mL of an ether solution of LiAlH4 (1 M, 0.04 mol). After sting for 12 h, water (˜20 mL) was added cautiously and the mixture was filtered through celite. The filter pad was washed with dichloromethane (3×100 mL) and the combined organic fractions were dried (MgSO4). Solvents were evaporated and the residue was dissolved in 150 mL of toluene. p-TSA (1.0 g) was added and the mixture was stirred at 80° C. for 2 h. After cooling, the mixture was washed with a saturated aqueous solution of NaHCO3, brine solution, and dried (MgSO4). Evaporation of solvent gave 18.1 g of product (93% purity by GC/MS). 1H-NMR δ (CD2Cl2): (major isomer) 7.3–7.5 (m, 5H), 6.48 (s, 1H), 3.2 (s, 2H), 2.8 (m, 1H), 2.5 (s, 3H), 1.22 (d, 6H). EIMS: m/z (%) 254 (M+, 55), 239 (100), 224 (25), 211 (5), 191 (5), 178 (9), 165 (7).

reactant | 2-methyl-5-(isopropyl)-3-phenyl-4,5-dihydrocyclopenta[2,1-b]thiophen-6-one | 0.068 mol, 18.5 g | CC1=C(C2=C(S1)C(C(C2)C(C)C)=O)C2=CC=CC=C2 | C17H18OS
reactant | LiAlH4 | 0.04 mol, 1 M | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | water | ˜20 mL | O | H2O
solvent | ether | 80 mL | CCOCC | C4H10O
solvent | ether | 40 mL | CCOCC | C4H10O
product | 5-Isopropyl-2-methyl-3-phenyl-6H-cyclopenta[b]thiophene | 18.1 g, 93% | C(C)(C)C1=CC2=C(SC(=C2C2=CC=CC=C2)C)C1 | C17H18S
